US05071844
5-(2-Bromoethyl)indane
Phosphorous tribromide (3.5 ml) was added dropwise to an ice-cooled solution of 5-(2-hydroxyethyl)indane (14.0 g) (prepared as described in FR-2,139,628 (14.0 g) in carbon tetrachloride (100 ml) and the mixture was heated under reflux for 2 hours, quenched with ice-water and partitioned between dichloromethane and 10% aqueous sodium carbonate solution. The organic layer was washed with water, dried over magnesium sulphate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel using dichloromethane as eluant. Appropriate fractions were combined and evaporated under reduced pressure to give the title compound as a pale yellow oil, (10.5 g, 54%).

reactant | Phosphorous tribromide | 3.5 ml | P(Br)(Br)Br | Br3P
reactant | 5-(2-hydroxyethyl)indane | 14.0 g | OCCC=1C=C2CCCC2=CC1 | C11H14O
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(2-Bromoethyl)indane | 10.5 g, 54% | BrCCC=1C=C2CCCC2=CC1 | C11H13Br
